US07915267B2
3-[(3-chloropropyl)oxy]benzonitrile
A suspension of 1-bromo-3-chloropropane (13.9 g, 88.1 mmol) and 60% sodium hydride (oil dispersion, 3.02 g, 126 mmol) in ethanol (50 mL) was stirred at room temperature for 30 min. 3-Hydroxybenzonitrile (10.0 g, 83.9 mmol) was added to the reaction mixture at 0° C., and the mixture was stirred at 60° C. for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The obtained oil was purified by silica gel column chromatography (5%-15% ethyl acetate/hexane) to give the title compound as a colorless oil (14.2 g, 86%).

reactant | 1-bromo-3-chloropropane | 88.1 mmol, 13.9 g | BrCCCCl | C3H6BrCl
reactant | sodium hydride | 126 mmol, 3.02 g | [H-].[Na+]
reactant | 3-Hydroxybenzonitrile | 83.9 mmol, 10.0 g | OC=1C=C(C#N)C=CC1 | C7H5NO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[(3-chloropropyl)oxy]benzonitrile | 14.2 g, 86% | ClCCCOC=1C=C(C#N)C=CC1 | C10H10ClNO
